### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): a computable monoidal functor instance for `hoFunctor`

### PR DESCRIPTION
**Pull request by joelriou**
We construct a computable equivalence of categories `(X ⊗ Y).HomotopyCategory ≌ X.HomotopyCategory × Y.HomotopyCategory` for `2`-truncated simplicial sets `X` and `Y`. This allows to make the bicategory instance on quasicategories computable.

---

- [x] depends on: #33201 
- [x] depends on: #31174
- [x] depends on: #31250
- [x] depends on: #31254
- [x] depends on: #31274
- [x] depends on: #31265

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 1]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+    (functorCompInverseIso X Y).inv.app (mk (x, y)) = 𝟙 _ := rfl
+
+variable (X Y) in
+/-- Auxiliary definition for `equivalence`. -/
+def inverseCompFunctorIso : inverse X Y ⋙ functor X Y ≅ 𝟭 _ :=
+  Functor.fullyFaithfulCurry.preimageIso
+    (mkNatIso (fun x ↦ mkNatIso (fun y ↦ Iso.refl _)
+      (fun y₀ y₁ e ↦ by
+        dsimp
+        cat_disch))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
    (mkNatIso (fun x ↦ mkNatIso (fun y ↦ Iso.refl _))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 2]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+
+lemma right_unitality [Unique (Y _⦋0⦌₂)] [Subsingleton (Y _⦋1⦌₂)] :
+    CategoryTheory.Prod.fst _ _ = (Functor.prod (𝟭 _) (isoTerminal Y).inv.toFunctor) ⋙
+      inverse X Y ⋙ mapHomotopyCategory (fst _ _) := by
+  rw [inverse_comp_mapHomotopyCategory_fst]
+  rfl
+
+variable (Z)
+
+set_option maxHeartbeats 800000 in -- this is slow
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]: On my machine it compiles just fine without this
```suggestion
```
Remnants of a previous version?

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 3]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+      μIso X Y := (iso X Y).symm
+      μIso_hom_natural_left _ _ := by ext; apply mapHomotopyCategory_prod_id_comp_inverse
+      μIso_hom_natural_right _ _ := by ext; apply id_prod_mapHomotopyCategory_comp_inverse
+      left_unitality Y := by ext; apply left_unitality
+      right_unitality X := by ext; apply right_unitality
+      associativity _ _ _ := by ext; apply associativity }
+
+/-- The homotopy category functor `hoFunctor : SSet.{u} ⥤ Cat.{u, u}` is (cartesian) monoidal. -/
+instance hofunctor.monoidal : hoFunctor.{u}.Monoidal :=
+  inferInstanceAs ((truncation 2 ⋙ hoFunctor₂).Monoidal)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
  inferInstanceAs (truncation 2 ⋙ hoFunctor₂).Monoidal
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 4]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+lemma inverse_comp_mapHomotopyCategory_fst :
+    inverse X Y ⋙ mapHomotopyCategory (fst _ _) = CategoryTheory.Prod.fst _ _ :=
+  Functor.ext_of_iso (inverseCompMapHomotopyCategoryFstIso _ _) (fun _ ↦ rfl)
+
+lemma inverse_comp_mapHomotopyCategory_snd :
+    inverse X Y ⋙ mapHomotopyCategory (snd _ _) = CategoryTheory.Prod.snd _ _ :=
+  Functor.ext_of_iso (inverseCompMapHomotopyCategorySndIso _ _) (fun _ ↦ rfl)
+
+lemma left_unitality [Unique (X _⦋0⦌₂)] [Subsingleton (X _⦋1⦌₂)] :
+    CategoryTheory.Prod.snd _ _ = (Functor.prod (isoTerminal X).inv.toFunctor (𝟭 _)) ⋙
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
    CategoryTheory.Prod.snd _ _ = Functor.prod (isoTerminal X).inv.toFunctor (𝟭 _) ⋙
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 5]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+      inverse X Y ⋙ mapHomotopyCategory (snd _ _) := by
+  rw [inverse_comp_mapHomotopyCategory_snd]
+  rfl
+
+lemma right_unitality [Unique (Y _⦋0⦌₂)] [Subsingleton (Y _⦋1⦌₂)] :
+    CategoryTheory.Prod.fst _ _ = (Functor.prod (𝟭 _) (isoTerminal Y).inv.toFunctor) ⋙
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
    CategoryTheory.Prod.fst _ _ = Functor.prod (𝟭 _) (isoTerminal Y).inv.toFunctor ⋙
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 6]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+    { εIso := (HomotopyCategory.isoTerminal _).symm
+      μIso X Y := (iso X Y).symm
+      μIso_hom_natural_left _ _ := by ext; apply mapHomotopyCategory_prod_id_comp_inverse
+      μIso_hom_natural_right _ _ := by ext; apply id_prod_mapHomotopyCategory_comp_inverse
+      left_unitality Y := by ext; apply left_unitality
+      right_unitality X := by ext; apply right_unitality
+      associativity _ _ _ := by ext; apply associativity }
+
+/-- The homotopy category functor `hoFunctor : SSet.{u} ⥤ Cat.{u, u}` is (cartesian) monoidal. -/
+instance hofunctor.monoidal : hoFunctor.{u}.Monoidal :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
instance hoFunctor.monoidal : hoFunctor.{u}.Monoidal :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 7]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+
+variable (Z)
+
+set_option maxHeartbeats 800000 in -- this is slow
+/-- Auxiliary defininition for `associativityIso`. -/
+def associativity'Iso :
+    (prod.associativity _ _ _).inverse ⋙ (inverse X Y).prod (𝟭 _) ⋙ inverse (X ⊗ Y) Z ⋙
+      mapHomotopyCategory (α_ _ _ _).hom ≅
+       Functor.prod (𝟭 _) (inverse Y Z) ⋙
+        inverse X (Y ⊗ Z) :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean]:
```suggestion
    (prod.associativity ..).inverse ⋙ (inverse X Y).prod (𝟭 _) ⋙ inverse (X ⊗ Y) Z ⋙
      mapHomotopyCategory (α_ _ _ _).hom ≅
    Functor.prod (𝟭 _) (inverse Y Z) ⋙ inverse X (Y ⊗ Z) :=
```
Feel free to disagree with this particular indentation style, but the point is mainly that in the current code, `Functor.prod` and `inverse` are only indented by 1 space instead of 2.

File: Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean [hunk 8]
```diff
@@ -121,8 +121,304 @@ lemma square {X Y : Truncated.{u} 2}
...
+    (functor X Y).map (homMk (e.tensor e')) = (homMk e, homMk e') := rfl
+
+variable (X Y) in
+/-- The functor `X.HomotopyCategory ⥤ Y.HomotopyCategory ⥤ (X ⊗ Y).HomotopyCategory`
+when `X` and `Y` are `2`-truncated simplicial sets. -/
+def curriedInverse : X.HomotopyCategory ⥤ Y.HomotopyCategory ⥤ (X ⊗ Y).HomotopyCategory :=
+  lift (fun x ↦ lift (fun y ↦ mk (x, y)) (fun {y₀ y₁} e ↦ homMk (Edge.tensor (.id _) e)) (by simp)
+    (fun {y₀ y₁ y₁ e₀₁ e₁₂ e₀₂ h} ↦ homMk_comp_homMk ((Edge.CompStruct.idCompId x).tensor h)))
+    (fun {x₀ x₁} e ↦ mkNatTrans (fun y ↦ homMk (V := X ⊗ Y) (x₀ := (x₀, y))
+      (x₁ := (x₁, y)) (e.tensor (.id y))) (fun y₀ y₁ e' ↦ by simp [square]))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HoFunctorMonoidal.lean:149]: Can you please rename `square` or put it in the `BinaryProduct` namespace is well? its full name is `SSet.Truncated.HomotopyCategory.square` which doesn’t mention that it is about tensor product. I missed that when reviewing #33201.

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
